US04665202
2.88 g magnesium is allowed to react with 16.82 g methyl iodide in 80 ml refluxing dry diethylether. After disappearance of magnesium, one adds a solution of 21.4 g 4-chloro-3-formyl-flav-3-ene in 100 ml of a mixture of diethylether and tetrahydrofuran. After cooling to 0° C., a solution of 12.68 g ammonium chloride in 160 ml water is added. The two phases are separated and the aqueous solution is extracted with 50 ml diethyl ether. The combined organic phases are washed with 50 ml water, dried over magnesium sulfate and evaporated. The crude solid is crystallized in hexane. A racemate of one diastereomer of 4-chloro-3-(α-hydroxyethyl)-flav-3-ene is obtained as yellow crystals; m.p. 111°-113° C.

reactant | magnesium | 2.88 g | [Mg] | Mg
reactant | methyl iodide | 16.82 g | CI | CH3I
reactant | 4-chloro-3-formyl-flav-3-ene | 21.4 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | ammonium chloride | 12.68 g | [Cl-].[NH4+]
solvent | water | 160 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 4-chloro-3-(α-hydroxyethyl)-flav-3-ene | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C(C)O | C17H15ClO2
